US06414148B1
A solution of 7-benzyloxy-4-chloro-6-methoxyquinazoline (8.35 g, 27.8 mmol), (prepared as described for the starting material in Example 1), and 4-bromo-2-fluoroaniline (5.65 g, 29.7 mmol) in 2-propanol (200 ml) was heated at reflux for 4 hours. The resulting precipitate was collected by filtration, washed with 2-propanol and then ether and dried under vacuum to give 7-benzyloxy-4-(4-bromo-2-fluoroanilino)-6-methoxyquinazoline hydrochloride (9.46 g, 78%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 27.8 mmol, 8.35 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | 4-bromo-2-fluoroaniline | 29.7 mmol, 5.65 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 7-benzyloxy-4-(4-bromo-2-fluoroanilino)-6-methoxyquinazoline hydrochloride | 9.46 g, 78% | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Br)F)OC | InChI=1S/C22H17BrFN3O2.ClH/c1-28-20-10-16-19(11-21(20)29-12-14-5-3-2-4-6-14)25-13-26-22(16)27-18-8-7-15(23)9-17(18)24;/h2-11,13H,12H2,1H3,(H,25,26,27);1H
